US07230020B2
Reaction of 2,5-dichlorobenzoic acid (300 mg, 1.50 mmol) in thionyl chloride (3.5 mL) then with 4-aminobenzophenone (100 mg, 0.51 mmol) in presence of triethylamine (90 μL) in THF (6 mL) according to method B gave N-(4-benzoyl-phenyl)-2,5-dichloro-benzamide (160 mg, 0.43 mmol, 84% yield) as a off-white powder after purification by chromatography on silica gel (eluent:EtOAc/exane 1/9 to 3/7).

reactant | 2,5-dichlorobenzoic acid | 1.50 mmol, 300 mg | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 4-aminobenzophenone | 0.51 mmol, 100 mg | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
reactant | triethylamine | 90 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 3.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(4-benzoyl-phenyl)-2,5-dichloro-benzamide | 0.43 mmol, 160 mg, 84% yield | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)Cl)=O | C20H13Cl2NO2
